US07371747B2
1-tert-Butoxycarbonyl-4-(4-bromophenyl)piperazine (15.2 g, 44.5 mmol), pinacol diborane (13.6 g, 53.6 mmol) and potassium acetate (13.2 g, 134 mmol) were weighed into a 250 mL pressure flask fitted with a stir bar and rubber septum. The flask was purged with nitrogen and then anhydrous dimethylformamide (200 mL) was added. The reaction mixture was sparged with nitrogen for one hour. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) complex with dichloromethane (0.94 g, 1.3 mmol) was added and the flask was sealed with a Teflon™ screw cap. The reaction mixture was vigorously stirred at 85° C. for 2.5 h and then another portion of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) complex with dichloromethane (0.95 g, 1.3 mmol) was added. The reaction mixture was stirred at 85° C. for an additional 2.5 h, cooled to room temperature and let stand overnight. The reaction mixture was diluted with diethyl ether (q.s. 800 mL) and filtered through Celite™. The filtrate was concentrated on a rotary evaporator and product was purified from the residue by chromatography on 1300 cm3 of silica gel in a 10×16.5 cm column with 1:1 hexane:ethyl acetate eluent. The product fractions were concentrated on a rotary evaporator and the residue dried under high vacuum to give 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]piperazine-1-carboxylic acid tert-butyl ester as a cream colored solid.

reactant | 1-tert-Butoxycarbonyl-4-(4-bromophenyl)piperazine | 44.5 mmol, 15.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C15H21BrN2O2
reactant | pinacol diborane | 53.6 mmol, 13.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 134 mmol, 13.2 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 1.3 mmol, 0.94 g | ClCCl | CH2Cl2
reactant | dichloromethane | 1.3 mmol, 0.95 g | ClCCl | CH2Cl2
solvent | diethyl ether | 800 mL | C(C)OCC | C4H10O
product | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H33BN2O4
